US06274758B1
(E)-3-Benzenesulfonyl-2-propylacrylic acid
(E)-3-benzenesulfonyl-2-propylacrylic acid methyl ester (5.0 g, 16.84 mmol) was dissolved in THF/water 3:1 (20 ml). Lithium hydroxide (0.86 g, 20.49 mmol) was added and the solution was stirred at room temperature overnight. The solvent was evaporated and the mixture was partitioned between ethyl acetate (50 ml) and water (40 ml). The aqueous layer was acidifed with 2M H2SO4 (6 ml) and the product was extracted into ethyl acetate (2×30 ml). The combined organic layers were washed with 2M H2SO4 (20 ml), brine, dried over magnesium sulfate, filtered and evaporated to give the title compound in 83% yield.

reactant | (E)-3-benzenesulfonyl-2-propylacrylic acid methyl ester | 16.84 mmol, 5.0 g | COC(\C(=C\S(=O)(=O)C1=CC=CC=C1)\CCC)=O | C13H16O4S
reactant | Lithium hydroxide | 20.49 mmol, 0.86 g | [OH-].[Li+]
solvent | THF water | 20 ml | C1CCOC1.O
product | (E)-3-Benzenesulfonyl-2-propylacrylic acid | 83% yield | C1(=CC=CC=C1)S(=O)(=O)/C=C(/C(=O)O)\CCC | C12H14O4S
